US06514968B1
N-{2-[(9-Benzyl-8-chloro-9H-carbazol-4-yl)oxy]ethyl}-N,N-diethylamine
9-Benzyl-8-chloro-9H-carbazol-4-ol (0.0826 g, 0.27mmol), 2-diethylaminoethylchloride hydrochloride (0.0719 g, 0.42 mmol), potassium carbonate (0.1157 g, 0.84 mmol), sodium iodide (0.0031 g, 0.021 mmol) and DMF (1 mL) are heated at 85° C. for 4 h. After the mixture had cooled, it is partitioned between water and ether. The combined organic layers are dried over magnesium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (30 mL) using methanol/dichloromethane (1/99 to 2/98 to 4/96) to give 0.0675 g (62%) of the title compound: mp 73.5-75° C.; MS (ESI+) for C25H27ClN2O m/z 407.3 (M+H)+; IR (drift) 2966, 1588, 1499, 1454, 1413, 1355, 1337, 1266, 1124, 1027, 789, 732, 727, 717, 697 cm−1; 1H NMR (CDCl3) δ1.13, 2.72, 3.10, 4.33, 5.99, 6.71, 6.96, 7.10, 7.15-7.26, 7.33, 8.33. Anal. Calcd for C25H27ClN2O: C, 73.79; H, 6.69; N, 6.88. Found: C, 73.47; H, 6.81; N, 6.76.

reactant | 9-Benzyl-8-chloro-9H-carbazol-4-ol | 0.27mmol, 0.0826 g | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(=CC=CC12)O)Cl | C19H14ClNO
reactant | 2-diethylaminoethylchloride hydrochloride | 0.42 mmol, 0.0719 g | Cl.C(C)N(CCCl)CC
reactant | potassium carbonate | 0.84 mmol, 0.1157 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.021 mmol, 0.0031 g | [I-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-{2-[(9-Benzyl-8-chloro-9H-carbazol-4-yl)oxy]ethyl}-N,N-diethylamine | 0.0675 g, 62% | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(=CC=CC12)OCCN(CC)CC)Cl | C25H27ClN2O
